US08039460B2
Step B: N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]-4-(2-oxo-1,2,4,5-tetrahydro-3H-1,3-benzodiazepin-3-yl)piperidine-1-carboxamide
Triethylamine (7.0 μL, 0.05 mmol) was added to a solution of (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine (17 mg, 0.05 mmol) and 4-nitrophenyl chloroformate (10.0 mg, 0.05 mmol) in tetrahydrofuran (3 mL) at 0° C. After 20 min, the hydrochloride salt of 3-piperidin-4-yl-1,3,4,5-tetrahydro-2H-1,3-benzodiazepin-2-one (14 mg, 0.05 mmol) and triethylamine (21 μL, 0.15 mmol) were added and the mixture allowed to warm to ambient temperature. After 1 h, saturated aqueous sodium carbonate was added and the mixture was extracted with dichloromethane (3×). The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→93% dichloromethane/methanol) gave the title compound (22 mg). MS 617.2609 (M+1).

reactant | Triethylamine | 0.05 mmol, 7.0 μL | C(C)N(CC)CC | C6H15N
reactant | (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine | 0.05 mmol, 17 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(F)(F)F)N | C16H16F5N3
reactant | 4-nitrophenyl chloroformate | 0.05 mmol, 10.0 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 3-piperidin-4-yl-1,3,4,5-tetrahydro-2H-1,3-benzodiazepin-2-one | 0.05 mmol, 14 mg | N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C14H19N3O
reactant | triethylamine | 0.15 mmol, 21 μL | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]-4-(2-oxo-1,2,4,5-tetrahydro-3H-1,3-benzodiazepin-3-yl)piperidine-1-carboxamide | 22 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(F)(F)F)NC(=O)N2CCC(CC2)N2C(NC1=C(CC2)C=CC=C1)=O | C31H33F5N6O2
